US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-[3-(dimethylamino)propyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(3-chloropropyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine (560 mg) was dissolved in 2.0 M dimethylamine-tetrahydrofuran solution (5 mL), and the mixture was stirred at room temperature for 26 hrs. A 2.0 M dimethylamine-tetrahydrofuran solution (5 mL) was further added and the mixture was stirred at room temperature for 20 hrs. A 2.0 M dimethylamine-tetrahydrofuran solution (10 mL) was further added, and the mixture was stirred at room temperature for 24 hrs. After concentration of the reaction mixture under reduced pressure, saturated aqueous sodium hydrogen carbonate (20 mL) was added to the residue, and the mixture was extracted with ethyl acetate (35 mL×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→20:80), and 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the obtained amorphous solid. After concentration under reduced pressure, the residue was recrystallized from ethanol-ethyl acetate to give the title compound (428 mg).

reactant | N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-(3-chloropropyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 560 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CCCCl | C22H19Cl2FN4O
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
reactant | dimethylamine tetrahydrofuran | 2.0 M, 5 mL | CNC.O1CCCC1
reactant | dimethylamine tetrahydrofuran | 2.0 M, 10 mL | CNC.O1CCCC1
reactant | dimethylamine tetrahydrofuran | 2.0 M, 5 mL | CNC.O1CCCC1
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5-[3-(dimethylamino)propyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 428 mg | Cl.Cl.ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CCCN(C)C | InChI=1S/C24H25ClFN5O.2ClH/c1-30(2)10-4-11-31-12-9-21-23(31)24(28-16-27-21)29-19-7-8-22(20(25)14-19)32-15-17-5-3-6-18(26)13-17;;/h3,5-9,12-14,16H,4,10-11,15H2,1-2H3,(H,27,28,29);2*1H
